US09422331B2
To a rt solution of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (110 mg, 225 μmol) in DMF (563 μl) was added (3-cyclopropylquinolin-4-yl)methyl methanesulfonate (74.9 mg, 270 μmol), cesium carbonate (95.4 mg, 293 μmol), and sodium iodide (43.9 mg, 293 μmol). The reaction was stirred at rt for 2.5 days, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (78 mg, 52%) as an off-white solid. MS m/z 670 (MH)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 225 μmol, 110 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(=O)C1CCOCC1)C=CC=C2)=O)C | C25H36N4O6
reactant | (3-cyclopropylquinolin-4-yl)methyl methanesulfonate | 270 μmol, 74.9 mg | CS(=O)(=O)OCC1=C(C=NC2=CC=CC=C12)C1CC1 | C14H15NO3S
reactant | cesium carbonate | 293 μmol, 95.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 293 μmol, 43.9 mg | [I-].[Na+]
solvent | DMF | 563 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 78 mg, 52% | C1(CC1)C=1C=NC2=CC=CC=C2C1CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C1CCOCC1)C=CC=C2 | C38H47N5O6
